US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 6 using 4-(tert-butoxycarbonylamino)-6-methoxythiochromane-7-carboxylic acid methyl ester (800 mg) and potassium carbonate (627 mg), the objective 4-(tert-butoxycarbonylamino)-6-methoxythiochromane-7-carboxylic acid (722 mg) was obtained as colorless crystals.

reactant | 4-(tert-butoxycarbonylamino)-6-methoxythiochromane-7-carboxylic acid methyl ester | 800 mg | COC(=O)C1=C(C=C2C(CCSC2=C1)NC(=O)OC(C)(C)C)OC | C17H23NO5S
reactant | potassium carbonate | 627 mg | C([O-])([O-])=O.[K+].[K+]
product | 4-(tert-butoxycarbonylamino)-6-methoxythiochromane-7-carboxylic acid | 722 mg | C(C)(C)(C)OC(=O)NC1CCSC2=CC(=C(C=C12)OC)C(=O)O | C16H21NO5S
